US04517119
(h) Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-OH (VI)
Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-OPh (30.2 g, 35 mmol) was dissolved in 180 ml TFE and 20 ml water and 30% H2O2 (3.9 ml, 38 mmol) was added. The reaction mixture was adjusted to pH 10.5 with 4N NaOH and stirred for 2 h at 25° C. The resulting dark brown solution was poured into 2.1 l 0.05N H2SO4 and the resulting precipitate was filtered off, washed with water and crystallized from ethanol.

reactant | Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-OPh | 35 mmol, 30.2 g | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)OC1=CC=CC=C1)C(=O)C | C42H66N6O13
reactant | H2O2 | 38 mmol, 3.9 ml | OO | H2O2
reactant | NaOH | 4N | [OH-].[Na+]
reactant | H2SO4 | 0.05N, 2.1 l | OS(=O)(=O)O | H2O4S
solvent | water | 20 ml | O | H2O
product | Ac-Ser(tBu)-Asp(OtBu)-Ala-Ala-Val-Asp(OtBu)-OH | N([C@@H](COC(C)(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)C | C36H62N6O13
